US07875645B2
Butyl-[1-(2,3-dichloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine was prepared from 2,3-dichloro-6-fluorobenzaldehyde, N-butylamine and p-toluenesulphonic acid in analogy to Example 191a): brown oil; 1H-NMR (CDCl3): 0.96 (3H, t, CH3), 1.39 (2H, sextet, CH2), 1.73 (2H, quintet, CH2), 3.71 (2H, q, CH2), 7.02 (1H, dd, ArH), 7.44 (1H, dd, ArH), 8.44 (1H, s, CH═N).

reactant | 2,3-dichloro-6-fluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1Cl)F | C7H3Cl2FO
reactant | N-butylamine | C(CCC)N | C4H11N
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Butyl-[1-(2,3-dichloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)Cl)Cl | C11H12Cl2FN
